US07030240B2
4N-(3-(3-Fluorobenzyl amino) propylamino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine
The title compound was prepared (145 mg, 69%) from 3N-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-4-yl)-1,3-diaminopropane(150 mg, 0.57 m. mol) and 3-fluorobenzaldehyde (70 mg, 0.57 mmol) by following the general procedure described for Preparation 3. 1H NMR (400 MHz, CDCl3):δ 8.40 (s, 1H), 7.30 (m, 1H), 7.05 (m, 2H), 6.95 (m, 1H), 6.20 (bs, 1H), 3.80 (s, 2H), 3.70 (m, 2H), 2.80 (m, 6H), 1.80 (m, 6H), 1.70 (bs, 1H). MS (ESI) m/z: Calculated: 370.49; Observed: 371.1 (M++1).

reactant | (5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-4-yl)-1,3-diaminopropane | 150 mg | N1=CN=C(C2=C1SC1=C2CCCC1)C(CCN)N | C13H18N4S
reactant | 3-fluorobenzaldehyde | 0.57 mmol, 70 mg | FC=1C=C(C=O)C=CC1 | C7H5FO
product | (3-(3-Fluorobenzyl amino) propylamino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine | FC=1C=C(CNCCCNC=2N=CC3=C(N2)SC2=C3CCCC2)C=CC1 | C20H23FN4S
